US05660844
Results of the gel formation studies are summarized in Table VI. Addition of 1 g CAB-O-SIL® N70-TS to a reheated mixture of 20 wt % paraffin in dodecane did not aid gel formation. Polyethylene glycol monooleate and Zonyl® FSC fluorosurfactant were not miscible with the mixture. Preliminary observations indicated that after reheating a mixture of dodecane and 15 wt % N-14 Epolene® wax to solution point, the gel did not reappear upon cooling. Also, when the gel formed by 15 wt % N-14 wax in 80/20 hexadecane/mineral oil was reheated to solution point, the gel reformed upon cooling, but was easily broken by stirring with a glass rod. Extreme thermal cycling should be avoided.

reactant | CAB-O-SIL | 1 g | O=[Si]=O | O2Si
reactant | Polyethylene glycol monooleate | CCCCCCCCC=CCCCCCCCC(=O)OCCO | C20H38O3
solvent | dodecane | CCCCCCCCCCCC | C12H26
product | hexadecane | CCCCCCCCCCCCCCCC | C16H34
